US06114332
Reaction of methyl 2-iodobenzoate and 4-bromoanthranilic acid by the reported method [Rewcastle and Denny, Synth. Comm, 1987, 17, 309] gave 4-bromo-2-[(2-methoxycarbonyl-phenyl)amino]benzoic acid (70%), mp (MeOH/H2O) 218-219.5° C. 1H NMR [(CD3)2SO] δ 3.85 (s, 3 H, COOCH3), 7.08-7.12 (m, 2 H, 2×ArH), 7.50 (d, J=1.9 Hz, 1 H, H-3), 7.57 (d, J=3.8 Hz, 3 H, 2×ArH), 7.84 (d, J=8.4 Hz, 1 H, ArH), 7.93 (d, J=7.7 Hz, 1 H, ArH), 10.80 (s, 1 H, NH), 13.33 (br s, 1 H, COOH). Anal. (C15H12BrNO4) C, H, N.

reactant | methyl 2-iodobenzoate | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
reactant | 4-bromoanthranilic acid | BrC=1C=C(C(C(=O)O)=CC1)N | C7H6BrNO2
solvent | MeOH H2O | CO.O
product | 4-bromo-2-[(2-methoxycarbonyl-phenyl)amino]benzoic acid | 70% | BrC1=CC(=C(C(=O)O)C=C1)NC1=C(C=CC=C1)C(=O)OC | C15H12BrNO4
